US07271406B2
2-bromo-9,9-dibutylfluorene was synthesized from 2-bromofluorene and 1-bromobutane following the general procedures outlined in Part A of Example 5.

reactant | 2-bromofluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | 2-bromo-9,9-dibutylfluorene | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCC)CCCC | C21H25Br
